US07572459B2
Isothiocyanatobenzene-3,5-diphosphonic acid
Aniline-3,5-diphosphonic acid hydrochloride(500 mg, 1.73 mmole) was dissolved in water(5 ml) and thiophosgene(600 mg, 5.2 mmole) was added and the mixture stirred vigorously at 20° C. for 2.5 hours. Volatiles were removed in vacuo and the residue was dissolved in water(10 ml), filtered and lyophilised. 490 mg. 96%

reactant | Aniline-3,5-diphosphonic acid hydrochloride | 1.73 mmole, 500 mg | Cl.NC1=CC(=CC(=C1)P(O)(=O)O)P(O)(=O)O
reactant | thiophosgene | 5.2 mmole, 600 mg | C(=S)(Cl)Cl | CCl2S
solvent | water | 5 ml | O | H2O
product | Isothiocyanatobenzene-3,5-diphosphonic acid | N(=C=S)C1=CC(=CC(=C1)P(O)(=O)O)P(O)(=O)O | C7H7NO6P2S
